US06211215B1
In substantially the same manner as in Reference Example 31, 2-benzo[b]thiophenecarboxamide was allowed to react with 1,3-dichloroacetone to give 2-(2-benzo[b]thienyl)-4-chloromethyloxazole. The yield was 33%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 150-151° C.

reactant | 2-benzo[b]thiophenecarboxamide | S1C2=C(C=C1C(=O)N)C=CC=C2 | C9H7NOS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 2-(2-benzo[b]thienyl)-4-chloromethyloxazole | yield was 33% | S1C2=C(C=C1C=1OC=C(N1)CCl)C=CC=C2 | C12H8ClNOS
